US04044017
0.5 g of L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methyl-L-alaninamide was dissolved in a minimum amount of methanol at room temperature and treated, by titration, with an exact equivalent of 1-N hydrochloric acid. The solvent was removed from the resulting solution by evaporation in vacuo at room temperature and finally by lyophilisation to give, in quantitative yield, L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methyl-L-alaninamide hydrochloride as a white hygroscopic light-sensitive amorphous powder of melting point 130°-140° C (slow decomposition): [α]20D = -40.0° (c = 1 in water).

reactant | L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methyl-L-alaninamide | 0.5 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C26H26ClN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methyl-L-alaninamide hydrochloride | quantitative yield | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | InChI=1S/C26H26ClN3O3.ClH/c1-17(29-25(32)22(28)15-18-9-5-3-6-10-18)26(33)30(2)23-14-13-20(27)16-21(23)24(31)19-11-7-4-8-12-19;/h3-14,16-17,22H,15,28H2,1-2H3,(H,29,32);1H/t17-,22-;/m0./s1
